US05508272
b) (S)-2-(Acetylthio)propanoic acid
To a light green solution of potassium thioacetate (3.94 g, 34.5 mmol) in acetonitrile (150 ml) was added a solution of (R)-2-bromopropanoic acid (4.8 g, 31 mmol) in acetonitrile (12 ml) at room temperature under an argon atomosphere. The resulting white slurry was stirred at room temperature for 2 hours then filtered. The filtrate was concentrated in vacuo. The residue was diluted in ethyl acetate (100 ml), washed with a 10% aqueous solution of potassium bisulfate (50 ml) and brine, dried (sodium sulfate), and concentrated in vacuo. The crude product (4.61 g) was purified by flash chromatography (60 g--Merck silica gel, 1:45:54 acetic acid/ethyl acetate/hexane) to afford 3.7 g of the title product as a light yellow oil; [α]D =-114° (c=0.50, methanol).

reactant | potassium thioacetate | 34.5 mmol, 3.94 g | C(C)(=S)[O-].[K+]
reactant | (R)-2-bromopropanoic acid | 31 mmol, 4.8 g | Br[C@@H](C(=O)O)C | C3H5BrO2
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
solvent | acetonitrile | 12 ml | C(C)#N | C2H3N
product | (S)-2-(Acetylthio)propanoic acid | 3.7 g | C(C)(=O)S[C@H](C(=O)O)C | C5H8O3S
